US05864039
Potassium carbonate (0.57 g) and 5-bromo-1-phenyl-1-pentanone (0.80 g) were added to a solution (45 ml) of 4-amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.5 g) in dimethylformamide, and the mixture was stirred at 70°-80° C. for 7.5 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with saturated aqueous sodium chloride solution, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give crystals. The obtained crystals were recrystallized from ethyl acetate to give 0.80 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-oxo-5-phenylpentyl)piperidin-4-yl)methyl)benzamide.

reactant | Potassium carbonate | 0.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-1-phenyl-1-pentanone | 0.80 g | BrCCCCC(=O)C1=CC=CC=C1 | C11H13BrO
reactant | 4-amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 45 ml, 1.5 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-oxo-5-phenylpentyl)piperidin-4-yl)methyl)benzamide | 0.80 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCC(C2=CC=CC=C2)=O)C=C1Cl)OC | C25H32ClN3O3
